US04690705
1-(2-chlorophenyl)-1-(2-thienyl)methanone
To a cooled solution of 58 mL of o-chlorobenzoyl chloride and 24 mL of thiophene in 700 mL of carbon disulfide, cooled to 0° C. under a nitrogen atmosphere, was added 134 g of aluminum trichloride portionwise over a 20-minute period. A delayed exotherm was noted and the resulting deep red mixture was stirred for one hour at room temperature. Reaction mixture was poured into 4.0 kg of ice-water, extracted with methylene chloride and the organic layer washed three times with 1N NaOH followed by a final water wash. The organic layer was dried (MgSO4), filtered and concentrated to a dark oil. Distillation under vacuum provided 55 g of the subject compound as a light green viscous liquid, B.P. 160° C. at 1.6 mm.

reactant | o-chlorobenzoyl chloride | 58 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | thiophene | 24 mL | S1C=CC=C1 | C4H4S
reactant | aluminum trichloride | 134 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulfide | 700 mL | C(=S)=S | CS2
product | 1-(2-chlorophenyl)-1-(2-thienyl)methanone | 55 g | ClC1=C(C=CC=C1)C(=O)C=1SC=CC1 | C11H7ClOS
